US05952282
Synthesis of 3-triethylammoniobenzoisothiazole 1,1-dioxide chloride
10.0 g of pseudosaccharine chloride are dissolved in 40 ml of acetone, and 5.1 g of triethylamine (diluted with 5 ml of acetone) are added. The reaction temperature is held at room temperature by ice cooling. After stirring for 10 hours, the resultant precipitate is isolated to give 5.3 g (35%) of 3-triethyl-ammoniobenzoisothiazole 1,1-dioxide chloride.

reactant | pseudosaccharine chloride | 10.0 g | C1=CC=C2C(=C1)C(=NS2(=O)=O)Cl | C7H4ClNO2S
reactant | triethylamine | 5 ml, 5.1 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 3-triethylammoniobenzoisothiazole 1,1-dioxide chloride | [Cl-].C(C)[N+](C1=NS(C2=C1C=CC=C2)(=O)=O)(CC)CC | InChI=1S/C13H19N2O2S.ClH/c1-4-15(5-2,6-3)13-11-9-7-8-10-12(11)18(16,17)14-13;/h7-10H,4-6H2,1-3H3;1H/q+1;/p-1
